US05167863
1.90 g of (2S,3R)-3-benzyloxy-2-butanol was dissolved in 50 ml of dry N,N-dimethylformamide. Thereto was added in small portions 2.53 g of about 60% oily sodium hydride. The mixture was stirred for 1 hour at room temperature. 11.63 g of butyl iodide was dropped with ice cooling. The mixture was stirred overnight at room temperature. The reaction mixture was poured into water. The resulting mixture was extracted with ether three times. The extract was washed with water three times, dried and concentrated. The residue was subjected to Kugel-rohr distillation (1 mmHg) to obtain 2.05 g of (2R,3S)-2-benzyloxy-3butoxybutane.

reactant | (2S,3R)-3-benzyloxy-2-butanol | 1.90 g | C(C1=CC=CC=C1)O[C@@H]([C@H](C)O)C | C11H16O2
reactant | sodium hydride | 2.53 g | [H-].[Na+]
reactant | butyl iodide | 11.63 g | C(CCC)I | C4H9I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | (2R,3S)-2-benzyloxy-3butoxybutane | 2.05 g | C(C1=CC=CC=C1)O[C@H](C)[C@H](C)OCCCC | C15H24O2
